US05882543
A dehydrating compound was formed by combining 192.2 grams of ethylbenzoylacetate in a 1-liter flask with 300 milliliters of diethylether, and magnetically stirring the solution as 161 grams of hexamethyldisilazane was added dropwise. The solution was refluxed until ammonia evolution ceased, and was distilled under a vacuum to yield a lubricant-soluble 1-trimethylsiloxy-1-methoxy-3-phenylprop-1-ene-3-one.

reactant | ethylbenzoylacetate | 192.2 grams | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | hexamethyldisilazane | 161 grams | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
solvent | diethylether | 300 milliliters | C(C)OCC | C4H10O
product | 1-trimethylsiloxy-1-methoxy-3-phenylprop-1-ene-3-one | C[Si](OC(=CC(=O)C1=CC=CC=C1)OC)(C)C | C13H18O3Si
